US07531532B2
1-(3-Diethylaminopropyl)-3-[4-(2-fluoro-4-{3-[2-(4-fluorophenyl)acetyl]thioureido}phenoxy)pyridin-2-yl]-1-methylurea
To a solution of 1-[4-(2-aminopyridin-4-yloxy)-3-fluorophenyl]-3-[(4-fluorophenyl)acetyl]thiourea (100 mg) in tetrahydrofuran (10 ml) was added triethylamine (0.101 ml), and then phenyl chloroformate (0.0454 ml) was added while stirring in an ice bath, followed by stirring under a nitrogen atmosphere for 10 min. The reaction mixture was concentrated under a reduced pressure to give a residue, to which N,N-dimethylformamide (2.0 ml) and N,N-diethyl-N′-methyl-1,3-propanediamine (151 mg) were then added, followed by stirring at room temperature for 2.5 hrs. The reaction mixture was diluted with ethyl acetate (150 ml), washed with a saturated aqueous solution of sodium hydrogencarbonate, and dried over anhydrous sodium sulfate. The solvent was evaporated to give a residue, which was then purified by silica gel column chromatography (FUJI Silysia NH, hexane:ethyl acetate=1:2, then ethyl acetate). Fractions containing the target compound were concentrated to give a solid, which was further purified by LC-MS. Fractions containing the target compound were concentrated to give a solid, to which a saturated aqueous solution of sodium hydrogencarbonate was then added to make it alkaline. The mixture was extracted with ethyl acetate, and the organic layer was dried over anhydrous sodium sulfate. The solvent was evaporated to provide the titled compound (2.7 mg, 1.9%) as a pale yellow oil.

reactant | 1-[4-(2-aminopyridin-4-yloxy)-3-fluorophenyl]-3-[(4-fluorophenyl)acetyl]thiourea | 100 mg | NC1=NC=CC(=C1)OC1=C(C=C(C=C1)NC(=S)NC(CC1=CC=C(C=C1)F)=O)F | C20H16F2N4O2S
reactant | phenyl chloroformate | 0.0454 ml | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
reactant | N,N-diethyl-N′-methyl-1,3-propanediamine | 151 mg | C(C)N(CCCNC)CC | C8H20N2
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | 150 ml | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 2.0 ml | CN(C=O)C | C3H7NO
solvent | triethylamine | 0.101 ml | C(C)N(CC)CC | C6H15N
product | 1-(3-Diethylaminopropyl)-3-[4-(2-fluoro-4-{3-[2-(4-fluorophenyl)acetyl]thioureido}phenoxy)pyridin-2-yl]-1-methylurea | 2.7 mg, 1.9% | C(C)N(CCCN(C(=O)NC1=NC=CC(=C1)OC1=C(C=C(C=C1)NC(=S)NC(CC1=CC=C(C=C1)F)=O)F)C)CC | C29H34F2N6O3S
